US07608639B2
3-{2-Methyl-4-[3-(5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared according to Example 89 by using phenyl boronic acid and 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester to afford about 74 mg (49%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C29H23O4F3 492, found 493 (M+1, 100%).

reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C24H20BrF3O4
product | 3-{2-Methyl-4-[3-(5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C1=CC=CC=C1)CCC(=O)O | C29H23F3O4
